US05047411
To a solution of 4-(4-hydroxy-3-nitrophenyl)-2-butanone (17.5 g) in chloroform (150 ml) was dropwise added a sulfuryl chloride (11.2 g) at 20° to 27° C. under stirring and the mixture was stirred at ambient temperature for 7 hours. The reaction mixture was washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo to give an oily residue of 4-(4-hydroxy-3-nitrophenyl)-3-chloro-2-butanone. To this oily residue was added a mixture of 2-amino-4-methylpyridine (22.6 g) in acetonitrile (150 ml) and the resultant mixture was refluxed for 8 hours under stirring. The precipitate was collected by filtration. The precipitate was dissolved in a mixture of ethyl acetate and 5% hydrochloric acid and separated aqueous layer was adjusted to pH 7.5 with aqueous 20% potassium carbonate. The resultant mixture was extracted with chloroform and the extract was washed with brine and dried over magnesium sulfate. The solvent was concentrated in vacuo and the crystalline residue was collected by filtration to give 3-(4-hydroxy-3-nitrobenzyl)-2,7-dimethylimidazo[1,2-a]pyridine (2.2 g).

reactant | 4-(4-hydroxy-3-nitrophenyl)-2-butanone | 17.5 g | OC1=C(C=C(C=C1)CCC(C)=O)[N+](=O)[O-] | C10H11NO4
reactant | sulfuryl chloride | 11.2 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(4-hydroxy-3-nitrophenyl)-3-chloro-2-butanone | OC1=C(C=C(C=C1)CC(C(C)=O)Cl)[N+](=O)[O-] | C10H10ClNO4
